US07919628B2
c) 2-{[4-Bromo-1-(4-trifluoromethyl-benzyloxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid
96 mg 2-{[4-bromo-1-(4-trifluoromethyl-benzyloxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester in 0.5 ml THF, 0.56 ml of 2 M sodium hydroxide and 1.4 ml methanol were reacted in a microwave at 120° C. for 6 min. The reaction was then acidified with 2 M hydrochloric acid and extracted with ethyl acetate twice. The combined organic layers were dried over magnesium sulphate, and concentrated. After purification of the residue by RP-HPLC 11 mg of 2-{[4-Bromo-1-(4-trifluoromethyl-benzyloxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid were obtained.

reactant | 2-{[4-bromo-1-(4-trifluoromethyl-benzyloxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | 96 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C(=C1)Br)OCC1=CC=C(C=C1)C(F)(F)F)=O | C24H21BrF3NO4
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 2 M, 0.56 ml | [OH-].[Na+]
solvent | methanol | 1.4 ml | CO | CH4O
product | 2-{[4-Bromo-1-(4-trifluoromethyl-benzyloxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid | BrC1=CC(=C(C2=CC=CC=C12)OCC1=CC=C(C=C1)C(F)(F)F)C(=O)NC(C(=O)O)(C)C | C23H19BrF3NO4
